US04145443
a. 1-Acetoxy-3-naphthoic acid
To a suspension of 2.3 g. of 4-hydroxy-1-naphthoic acid in 100 ml. of methylene chloride and 100 ml. of tetrahydrofuran, a mixture of 1.5 g. of triethylamine, 1.6 g. of 4-N-dimethylaminopyridine and 1.5 g. of acetic anhydride is added. The reaction mixture is heated at 50° for one hour. The solution is extracted with ethyl acetate, the organic layer washed with water and dilute hydrochloride acid and evaporated to dryness to yield 2.1 g. of the acetoxy carboxylic acid.

reactant | 4-hydroxy-1-naphthoic acid | OC1=CC=C(C2=CC=CC=C12)C(=O)O | C11H8O3
reactant | methylene chloride | C(Cl)Cl | CH2Cl2
reactant | acetic anhydride | C(C)(=O)OC(C)=O | C4H6O3
reactant | acetoxy carboxylic acid | C(C)(=O)OC(=O)O | C3H4O4
solvent | triethylamine | C(C)N(CC)CC | C6H15N
solvent | tetrahydrofuran | O1CCCC1 | C4H8O
product | 1-Acetoxy-3-naphthoic acid | C(C)(=O)OC1=CC(=CC2=CC=CC=C12)C(=O)O | C13H10O4
